US05212269
a) Coumarin Monomer Synthesis (VII)
Dimethyl acetonedicarboxylate (13.9 g), 13.6 grams of the product from the previous step, 3.0 grams of anhydrous zinc chloride and 35 mL of methanol were refluxed for 23.5 hours. After cooling, the solution was poured over 60 g of ice, 20 mL of water and 3 mL of concentrated hydrochloric acid. The purple oil which separated was extracted into methylene chloride. The methylene chloride solution was washed once with cold water, dried over sodium sulfate, filtered and evaporated (yield 13.6 g of semi-solid). After 2 days at room temperature the solid was filtered from the liquid, washed twice with -20° C. methanol, and dried. Yield 1.34 g, MP 150°-154° C. This material was then recrystallized from methanol to give yellow-orange plates, MP 158.5°-160° C. The 1H NMR spectrum for this compound was consistent with that expected formethyl 7-[N-methyl-N-(2-hydroxyethyl)amino]coumarin-4-acetate. Elemental analysis for nitrogen: for C15H17NO5, %N expected: 4.81; found: 4.93.

reactant | Dimethyl acetonedicarboxylate | 13.9 g | COC(=O)CC(=O)CC(=O)OC | C7H10O5
reactant | methanol | 35 mL | CO | CH4O
reactant | hydrochloric acid | 3 mL | Cl | ClH
reactant | 7-[N-methyl-N-(2-hydroxyethyl)amino]coumarin-4-acetate | CN(CCO)C1=CC=C2C(=CC(OC2=C1)=O)CC(=O)[O-]
catalyst | zinc chloride | 3.0 grams | [Cl-].[Zn+2].[Cl-]
solvent | water | 20 mL | O | H2O
product | Coumarin | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
